US06939928B1
(2) Synthesis of 2-(3-tert-butylcyclopentadienyl)-2-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)propane
To a solution of 1.55 g (4.0 mmol) of 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene in 50 ml of THF, 2.6 ml (−4.2 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. To the resulting red solution, a solution of 0.97 g (6.0 mmol) of 3-tert-butyl-6,6-dimethylfulvene in 25 ml of THF was further dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. Then, 60 ml of water was added. The organic phase extracted with ether and separated was dried over magnesium sulfate and then filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a solid. The solid was purified by column chromatography (silica gel, developing solvent: hexane) to obtain 0.95 g of a light yellow solid (yield: 43%). The analyzed values are given below.

reactant | 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene | 4.0 mmol, 1.55 g | CC1(CCC(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(CCC5(C)C)(C)C)(C)C)C | C29H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-tert-butyl-6,6-dimethylfulvene | 6.0 mmol, 0.97 g | C(C)(C)(C)C=1C=CC(C1)=C(C)C | C12H18
reactant | water | 60 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | hexane | −4.2 mmol, 2.6 ml | CCCCCC | C6H14
product | 2-(3-tert-butylcyclopentadienyl)-2-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)propane | 0.95 g, yield: 43% | C(C)(C)(C)C1=CC(C=C1)C(C)(C)C1C(C2=C(C=C3C=4C=C5C(=CC4CC3=C2)C(CCC5(C)C)(C)C)C(C1)(C)C)(C)C | C41H56
